US07777047B2
N-(2-{5-[(1,1-dioxidothiomorpholino)methyl]-4,5-dihydro-1,3-thiazol-2-yl}-1H-indol-7-yl)-N-methylthiophene-2-sulfonamide
To a mixture of N-[2-(5-formyl-4,5-dihydro-1,3-thiazol-2-yl)-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide (550 mg), thiomorpholine 1,1-dioxide (270 mg) and tetrahydrofuran (15 mL) was added sodium triacetoxyborohydride (420 mg) at room temperature, and the mixture was stirred for 10 min. Saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography to give pale-pink crystals from a fraction eluted with ethyl acetate:hexane=50:50. The obtained pale-pink crystals were purified by preparative HPLC to give the title compound (140 mg, yield 20%) as white crystals. melting point 242° C.

reactant | N-[2-(5-formyl-4,5-dihydro-1,3-thiazol-2-yl)-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide | 550 mg | C(=O)C1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C17H15N3O3S3
reactant | thiomorpholine 1,1-dioxide | 270 mg | N1CCS(CC1)(=O)=O | C4H9NO2S
reactant | sodium triacetoxyborohydride | 420 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | N-(2-{5-[(1,1-dioxidothiomorpholino)methyl]-4,5-dihydro-1,3-thiazol-2-yl}-1H-indol-7-yl)-N-methylthiophene-2-sulfonamide | 140 mg, yield 20% | O=S1(CCN(CC1)CC1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C)=O | C21H24N4O4S4
